US04697033
A mixture of ethylene carbonate (41.08 g, 460.0 mmol) and potassium carbonate (63.57 g, 460.0 mmol) in 100 ml of DMF is heated to 110° and 4-(1-methylpropylthio)phenol (40.19 g, 230.0 mmol) in 100 ml DMF is slowly added dropwise with stirring. The mixture is stirred at 100° for 8 hours. Water is added to the cooled reaction mixture and the aqueous phase is extracted with ether. The combined organic layers are washed with 5% NaOH, with water and with brine, dried and the solvent removed to give 2-[4-(1-methylpropylthio)phenoxy]ethanol.

reactant | ethylene carbonate | 460.0 mmol, 41.08 g | C1(OCCO1)=O | C3H4O3
reactant | potassium carbonate | 460.0 mmol, 63.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(1-methylpropylthio)phenol | 230.0 mmol, 40.19 g | CC(CC)SC1=CC=C(C=C1)O | C10H14OS
reactant | Water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-[4-(1-methylpropylthio)phenoxy]ethanol | CC(CC)SC1=CC=C(OCCO)C=C1 | C12H18O2S
